US08623889B2
To a solution of 4-nitrophenyl 3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenylcarbamate (55.5 mg, 0.115 mmol) in tetrahydrofuran (1.5 mL, 18 mmol) was added morpholine (0.0500 mL, 0.573 mmol) and triethylamine (0.0500 mL, 0.359 mmol). The reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was poured into ethyl acetate, washed with saturated aqueous sodium bicarbonate and brine, dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 33.4 mg (67%) of N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)morpholine-4-carboxamide. LCMS (ESI): RT (min)=4.234, M+H=431.2, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.88 (s, 1H), 9.17 (s, 1H), 8.52 (s, 1H), 8.48 (s, 1H), 7.97 (s, 1H), 7.90 (d, J=8.6 Hz, 1H), 7.67 (d, J=8.6 Hz, 1H), 7.46 (s, 1H), 7.43 (d, J=8.3 Hz, 1H), 7.20 (d, J=8.3 Hz, 1H), 3.66-3.53 (m, 4H), 3.47-3.37 (m, 4H), 2.21 (s, 3H), 2.15-2.00 (m, 1H), 0.98-0.67 (m, 4H).

reactant | 4-nitrophenyl 3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenylcarbamate | 0.115 mmol, 55.5 mg | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C=CC1C)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C27H22N4O5
reactant | tetrahydrofuran | 18 mmol, 1.5 mL | O1CCCC1 | C4H8O
reactant | morpholine | 0.573 mmol, 0.0500 mL | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.359 mmol, 0.0500 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)morpholine-4-carboxamide | 33.4 mg, 67% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C=CC1C)NC(=O)N1CCOCC1 | C25H26N4O3
